US07053089B2
To a stirred solution of 4-[(6-methyl-pyrimidin-4-ylamino)-methyl]-piperidine (0.15 g, 0.73 mmol), in DMF (1 mL) was added carbonic acid benzyl ester 2,5-dioxo-pyrrolidin-1-yl ester (0.18 g, 0.73 mmol). The resulting reaction solution was stirred at rt for 0.5 h, then concentrated in vacuo. The residue was purified by silica gel chromatography (90:10:1 DCM MeOH NH4OH) to give 4-[(6-methyl-pyrimidin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester. M.S.(M+1):341.37

reactant | 4-[(6-methyl-pyrimidin-4-ylamino)-methyl]-piperidine | 0.73 mmol, 0.15 g | CC1=CC(=NC=N1)NCC1CCNCC1 | C11H18N4
reactant | carbonic acid benzyl ester 2,5-dioxo-pyrrolidin-1-yl ester | 0.73 mmol, 0.18 g | O=C1N(C(CC1)=O)OC(OCC1=CC=CC=C1)=O | C12H11NO5
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[(6-methyl-pyrimidin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=NC(=C1)C | C19H24N4O2
